US06239074B1
3-[4-Chloro-3-(1,3-dioxan-2-yl)-phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine (compound 2.1)
A solution of 3.5 g of 3-[4-chloro-3-formylphenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine, 0.8 g of 1,3-propanediol and 0.2 g of p-toluenesulfonic acid in 100 ml of anhydrous dichloromethane was boiled for 5 hours under a water separator. The solution was washed with 10% strength sodium bicarbonate solution and water, dried over sodium sulfate and evaporated down. The residue was chromatographed over silica gel (7:3 cyclohexane/ethyl acetate).

reactant | 3-[4-chloro-3-formylphenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | 3.5 g | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C=O | C13H8ClF3N2O3
reactant | 1,3-propanediol | 0.8 g | C(CCO)O | C3H8O2
reactant | p-toluenesulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 3-[4-Chloro-3-(1,3-dioxan-2-yl)-phenyl]-2,4-dioxo-1-methyl-6-trifluoromethyl-1,2,3,4-tetrahydropyrimidine | ClC1=C(C=C(C=C1)N1C(N(C(=CC1=O)C(F)(F)F)C)=O)C1OCCCO1 | C16H14ClF3N2O4
